US05910498
1-(3-amino-4-fluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
Methyl 7-chloro-6-fluoro-1-(4-fluoro-3-nitrophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (600 mg) was dissolved in 30 ml of methanol, 10 ml of acetic acid and 30 ml of dichloroethane, and 100 mg of 10% palladium on carbon was added thereto. Under a hydrogen atmosphere, the solution was stirred at room temperature overnight. The catalyst was removed by a membrane filter and the filtrate was concentrated in vacua. To the residue were added 4 ml of acetic acid and 1 ml of hydrochloric acid. The solution was heated and stirred at 100° C. overnight. The reaction solution was concentrated in vacua. Diethyl ether was added to the residue whereupon the solid was collected by filtration and washed with diethyl ether to give 160 mg of the title compound.

reactant | Methyl 7-chloro-6-fluoro-1-(4-fluoro-3-nitrophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 600 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1=CC(=C(C=C1)F)[N+](=O)[O-])C(=O)OC)=O)F | C16H8ClF2N3O5
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 1-(3-amino-4-fluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 160 mg | NC=1C=C(C=CC1F)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)O | C15H8ClF2N3O3
